US07288547B2
35 mg (0.086 mmol) of (R)-2-[5-bromo-2-(5-methanesulfinyl-4H-[1,2,4]triazol-3-ylamino)-pyrimidin-4-ylamino]-3-methyl-butan-1-ol is dissolved in 4 ml of MeOH/water (4:1) and stirred with 25 mg of oxone (0.25 mmol) at room temperature. The batch is diluted with water and extracted with ethyl acetate. The organic phase is concentrated by evaporation, and the residue is digested with ethyl acetate. 19 mg (0.045 mmol, 52% of theory) of the product (R)-2-[5-bromo-2-(5-methanesulfonyl-4H-[1,2,4]triazol-3-ylamino)-pyrimidin-4-ylamino]-3-methyl-butan-1-ol is obtained.

reactant | (R)-2-[5-bromo-2-(5-methanesulfinyl-4H-[1,2,4]triazol-3-ylamino)-pyrimidin-4-ylamino]-3-methyl-butan-1-ol | 0.086 mmol, 35 mg | BrC=1C(=NC(=NC1)NC1=NN=C(N1)S(=O)C)N[C@@H](CO)C(C)C | C12H18BrN7O2S
reactant | oxone | 0.25 mmol, 25 mg | OOS(=O)[O-].[K+]
solvent | MeOH water | 4 ml | CO.O
solvent | water | O | H2O
product | (R)-2-[5-bromo-2-(5-methanesulfonyl-4H-[1,2,4]triazol-3-ylamino)-pyrimidin-4-ylamino]-3-methyl-butan-1-ol | BrC=1C(=NC(=NC1)NC1=NN=C(N1)S(=O)(=O)C)N[C@@H](CO)C(C)C | C12H18BrN7O3S
